US06350892B1
7-[2-(N-Dodecyl-N-methylamino)ethoxy]-2H-1-benzopyran-2-one
7-Hydroxycoumarin (6.0 g, 37.0 mmol) and 2-[N-dodecyl-N-methylamino] ethanol (9.0 g, 37.0 mmol) were reacted by the general procedure as described in example 1 and afforded the title compound (6.7 g, 47%) as a white solid.

reactant | 7-Hydroxycoumarin | 37.0 mmol, 6.0 g | OC1=CC=C2C=CC(OC2=C1)=O | C9H6O3
reactant | 2-[N-dodecyl-N-methylamino] ethanol | 37.0 mmol, 9.0 g | C(CCCCCCCCCCC)N(C)CCO | C15H33NO
product | 7-[2-(N-Dodecyl-N-methylamino)ethoxy]-2H-1-benzopyran-2-one | 6.7 g, 47% | C(CCCCCCCCCCC)N(C)CCOC1=CC2=C(C=CC(O2)=O)C=C1 | C24H37NO3
